US05994368
To a mixture of 10% trimethylsilyldiazomethane in hexane (4.2 ml) and triethylamine (527 mg) in tetrahydrofuranacetonitrile chloride hydrochloride (500 mg) in an ice water bath. The mixture was stirred for 7 hours in an ice water bath and allowed to stand for 18 hours at 0° C., then evaporated in vacuo. Saturated aqueous sodium bicarbonate solution was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulfate. Evaporation of the solvent gave crude 3-diazoacetyl-2-methylpyridine as an yellow oil.

reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | triethylamine | 527 mg | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuranacetonitrile chloride hydrochloride | 500 mg | Cl.[Cl-].O1C(CCC1)CC#N
solvent | hexane | 4.2 ml | CCCCCC | C6H14
product | 3-diazoacetyl-2-methylpyridine | [N+](=[N-])=CC(=O)C=1C(=NC=CC1)C | C8H7N3O
